US07169928B2
2-((2-Piperidinoethyl)amino)benzothiazole
2-Chlorobenzothiazole (10 mmol), 10 mmol of 2-piperidinoethanamine, and 30 mmol of triethylamine in 50 ml of dry ethanol were refluxed for 6 hours. The product was crystallized with hydrochloric acid in 2-propanol and recrystallized in methanol.

reactant | 2-Chlorobenzothiazole | 10 mmol | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | 2-piperidinoethanamine | 10 mmol | N1(CCCCC1)CCN | C7H16N2
reactant | triethylamine | 30 mmol | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-((2-Piperidinoethyl)amino)benzothiazole | N1(CCCCC1)CCNC=1SC2=C(N1)C=CC=C2 | C14H19N3S
